### PR TITLE
[Merged by Bors] - feat(Data/Matrix): scalar if commutes with every stdBasisMatrix

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
`M` is a scalar matrix if it commutes with every non-diagonal `stdBasisMatrix`.

Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basis.lean [hunk 1]
```diff
@@ -216,6 +216,44 @@ theorem mul_of_ne {k l : n} (h : j ≠ k) (d : α) :
 
 end
 
+section Commute
+
+variable [Fintype n]
+
+theorem comm_stdBasisMatrix {i j k : n} {M : Matrix n n α}
+    (hM : stdBasisMatrix i j 1 * M = M * stdBasisMatrix i j 1) (hkj : k ≠ j) : M j k = 0 := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:224]: A little more concise as
```suggestion
    (hM : Commute (stdBasisMatrix i j 1) M) (hkj : k ≠ j) : M j k = 0 := by
```
And below

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

**Comment by eric-wieser** [comment]
#7833 is related here, but I don't think it directly helps.

File: Mathlib/Data/Matrix/Basis.lean (hunk 1 above)
Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: Thanks! I am really sorry that the APP didn't notify me.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: Sorry, I now realize that this comment was incorrect; your original spelling was actually better, because it generalizes to rectangular matrices!

File: Mathlib/Data/Matrix/Basis.lean [hunk 2]
```diff
@@ -216,6 +216,44 @@ theorem mul_of_ne {k l : n} (h : j ≠ k) (d : α) :
...
+
+theorem comm_stdBasisMatrix' {i j k : n} {M : Matrix n n α}
+    (hM : Commute (stdBasisMatrix i j 1) M) (hki : k ≠ i) : M k i = 0 := by
+  have := Matrix.ext_iff.mpr hM k j
+  aesop
+
+theorem comm_stdBasisMatrix'' {i j : n} {M : Matrix n n α}
+    (hM : Commute (stdBasisMatrix i j 1) M) : M i i = M j j := by
+  have := Matrix.ext_iff.mpr hM i j
+  aesop
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:236]: Some name suggestions:
```suggestion
theorem row_eq_zero_of_commute_stdBasisMatrix {i j k : n} {M : Matrix n n α}
    (hM : Commute (stdBasisMatrix i j 1) M) (hkj : k ≠ j) : M j k = 0 := by
  have := Matrix.ext_iff.mpr hM i k
  aesop

theorem col_eq_zero_of_commute_stdBasisMatrix {i j k : n} {M : Matrix n n α}
    (hM : Commute (stdBasisMatrix i j 1) M) (hki : k ≠ i) : M k i = 0 := by
  have := Matrix.ext_iff.mpr hM k j
  aesop

theorem diag_eq_of_commute_stdBasisMatrix {i j : n} {M : Matrix n n α}
    (hM : Commute (stdBasisMatrix i j 1) M) : M i i = M j j := by
  have := Matrix.ext_iff.mpr hM i j
  aesop
```

File: Mathlib/Data/Matrix/Basis.lean [hunk 3]
```diff
@@ -216,6 +216,44 @@ theorem mul_of_ne {k l : n} (h : j ≠ k) (d : α) :
...
+
+/-- `M` is a scalar matrix if it commutes with every non-diagonal `stdBasisMatrix`.​-/
+theorem comm_all_stdBasisMatrix_nondiag [Inhabited n] {M : Matrix n n α}
+    (hM : ∀ (i j : n), i ≠ j → Commute (stdBasisMatrix i j 1) M) :
+    M = M default default • (1 : Matrix n n α) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:241]: I think a better statement would be that `M \in Set.range Matrix.scalar` or similar, as that has the advantage of not needing `Inhabited n`

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean:241]: Unfortunately, that just turns `Inhabited n` into `Inhabited α`. I think it's fine to assume `Inhabited n` directly.  As long as we have `Nonempty n`, we can simply use `Classical.inhabited_of_nonempty ‹_›` to obtain `Inhabited n`. Moreover, usually we use `Fin n` where n > 0, in which case `Inhabited (Fin n)` holds automatically since there is an instance in `Mathlib/Logic/Unique.lean`.

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: Now I have restated it and removed `Inhabited n`.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: [](url)

> Unfortunately, that just turns `Inhabited n` into `Inhabited α`.

I don't know what you mean by this. You shouldn't need `Inhabited α`, you can just use `1` or `0`.

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: @eric-wieser I thought you wanted me to derive `Nonempty n` from `M : Matrix n n α`.
In this PR, it was initially expressed as `∃ (c : α), M = c • (1 : Matrix n n α)`, which is not much different from `M ∈ Set.range (Matrix.scalar n)`. Later, I changed it to `M = M default default • (1 : Matrix n n α)` to make it easier to use in the tactic `rewrite`.
To remove the assumption of `Inhabited n`, I changed it to `(i : n) : M = M i i • (1 : Matrix n n α)`. This is equivalent to `∀ (i : n), M = M i i • (1 : Matrix n n α)`, and it holds even if `n` is empty. When `n` is non-empty, I believe this form provides quite precise information and is more user-friendly.
In my opinion, when we want to handle the case where `n` is empty, we should directly jump to `M = 1`, rather than trying invoke this theorem. From this perspective, I think even `Inhabited n` is acceptable.
I believe that `(i : n) : M = M i i • (1 : Matrix n n α)` is a better expression. But I agree that the theorem could be renamed to `mem_range_scalar_of_commute_stdBasisMatrix`.

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: Oh! The case where `n` is empty and `α` is non-empty is really confusing! There should be a theorem that tells us `Matrix n n α` is isomorphic to `α` in this case.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: > There should be a theorem that tells us `Matrix n n α` is isomorphic to `α` in this case.

I find that hard to believe, given such a theorem is false!

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: > Later, I changed it to `M = M default default • (1 : Matrix n n α)` to make it easier to use in the tactic `rewrite`.

My claim is that this is actually less useful, as it contains `M` on both sides so is hard to rewrite by. The `Set.range` version can be used with `cases`, and it will substitute all the `M`s globally for some scalar `r`

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: > The `Set.range` version can be used with `cases`, and it will substitute all the `M`s globally for some scalar `r`

Fine. I will get used to it.

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: > It's isomorphic to `Unit` instead.

Now it gets even more counter-intuitive! Mathlib should add this theorem.

Comment (shuxuezhuyi) [reply Mathlib/Data/Matrix/Basis.lean]: > I find that hard to believe, given such a theorem is false! It's isomorphic to `Unit` instead.

Wait, what do you think of `subsingleton_of_empty_left` in `Mathlib/Data/Matrix/Basic.lean`?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: That tells us that when the index type is empty, then all matrices are `0`

**Comment by eric-wieser** [comment]
maintainer merge

I think we should just land this; if @shuxuezhuyi really needs the `M = M default default • (1 : Matrix n n α) ` spelling of `M ∈ Set.range (Matrix.scalar n)`, it can always come in a follow-up PR.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by eric-wieser** [comment]
bors merge

(I saw a whitespace issue)

**Comment by eric-wieser** [comment]
bors merge

**Comment by eric-wieser** [comment]
https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237810.20LibrarySearch.20test.20failures discusses the CI failure.
